US06531476B1
3.12 g (7,5 mmol) of 1,4-dibenzyl-2-phenoxycarbonyloxymethylpiperazine are dissolved in 9.4 ml (15 equivalents; 112.8 mmol) of pyrrolidine in a 100 ml ground-necked conical flask on which is fitted a condenser. The mixture is refluxed in a thermostatically controlled oil bath for 60 hours. After cooling and evaporation of the excess amine, the residue is taken up in CH2Cl2 and washed with water until neutral. After drying the organic phase (MgSO4), filtration on paper and evaporation of the solvent, the product is chromatographed on a column of silica gel, eluting with an MeOH/CH2Cl2 mixture (0.5/99.5 v/v). 1.48 g of 1,4-dibenzyl-2-(1′-pyrrolidinocarbonyloxymethyl)piperazine are thus obtained in the form of a viscous product. Yield 50.2%. Rf=0.38 (5/95 v/v MeOH/CH2Cl2).

reactant | 1,4-dibenzyl-2-phenoxycarbonyloxymethylpiperazine | 7,5 mmol, 3.12 g | C(C1=CC=CC=C1)N1C(CN(CC1)CC1=CC=CC=C1)COC(=O)OC1=CC=CC=C1 | C26H28N2O3
reactant | pyrrolidine | 112.8 mmol, 9.4 ml, 15 equivalents | N1CCCC1 | C4H9N
product | 1,4-dibenzyl-2-(1′-pyrrolidinocarbonyloxymethyl)piperazine | 1.48 g, Yield 50.2% | C(C1=CC=CC=C1)N1C(CN(CC1)CC1=CC=CC=C1)COC(=O)N1CCCC1 | C24H31N3O2
